### PR TITLE
[Merged by Bors] - chore(Algebra/Algebra/Defs): add an `algebraMap` field to `Algebra` instead of extending `RingHom`

### PR DESCRIPTION
**Pull request by edegeltje**
as proposed on [zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/too.20many.20.60out.60s/near/492053667)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kbuzzard** [comment]
!bench

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 1]
```diff
@@ -374,9 +376,8 @@ instance (priority := 1100) id : Algebra R R where
   -- We override `toFun` and `toSMul` because `RingHom.id` is not reducible and cannot
   -- be made so without a significant performance hit.
   -- see library note [reducible non-instances].
-  toFun x := x
   toSMul := Mul.toSMul _
-  __ := (RingHom.id R).toAlgebra
+  __ := ({RingHom.id R with toFun x := x}).toAlgebra
```
Comment (alreadydone) [inline Mathlib/Algebra/Algebra/Defs.lean:380]: Looks like you are adding `with toFun x := x` to achieve a certain syntactic equality, not just defeq. Is it necessary for not breaking certain proofs or does it have a performance impact?

File: Mathlib/Algebra/Quaternion.lean [hunk 2]
```diff
@@ -484,11 +484,12 @@ theorem coe_mul : ((x * y : R) : ℍ[R,c₁,c₂]) = x * y := by ext <;> simp
...
-  map_one' := by simp only [map_one, coe_one]
-  map_zero' := by simp only [map_zero, coe_zero]
-  map_mul' x y := by simp only [map_mul, coe_mul]
-  map_add' x y := by simp only [map_add, coe_add]
+  algebraMap := {
+    toFun s := coe (algebraMap S R s)
+    map_one' := by simp only [map_one, coe_one]
+    map_zero' := by simp only [map_zero, coe_zero]
+    map_mul' x y := by simp only [map_mul, coe_mul]
+    map_add' x y := by simp only [map_add, coe_add]}
```
Comment (alreadydone) [inline Mathlib/Algebra/Quaternion.lean:492]: There's some inconsistency in how you write these brackets: I personally prefer
```suggestion
  algebraMap :=
  { toFun s := coe (algebraMap S R s)
    map_one' := by simp only [map_one, coe_one]
    map_zero' := by simp only [map_zero, coe_zero]
    map_mul' x y := by simp only [map_mul, coe_mul]
    map_add' x y := by simp only [map_add, coe_add] }
```

File: Mathlib/Algebra/RingQuot.lean [hunk 3]
```diff
@@ -378,11 +378,13 @@ instance instInhabited (r : R → R → Prop) : Inhabited (RingQuot r) :=
...
-  map_mul' := by simp [mul_quot]
-  map_zero' := by simp [← zero_quot]
-  map_add' := by simp [add_quot]
+  algebraMap := {
+    toFun r := ⟨Quot.mk _ (algebraMap S R r)⟩
+    map_one' := by simp [← one_quot]
+    map_mul' := by simp [mul_quot]
+    map_zero' := by simp [← zero_quot]
+    map_add' := by simp [add_quot]
+  }
```
Comment (alreadydone) [inline Mathlib/Algebra/RingQuot.lean:387]: For example here you use a different format for the closing }.

File: Mathlib/Algebra/Algebra/Defs.lean (hunk 1 above)
Comment (edegeltje) [reply Mathlib/Algebra/Algebra/Defs.lean:380]: `toFun` was already overriden in the previous implementation. i don't know its purpose, i just maintained the design.

File: Mathlib/Algebra/Quaternion.lean (hunk 2 above)
Comment (edegeltje) [reply Mathlib/Algebra/Quaternion.lean:492]: good catch, i'll go through it and try to make it all the second kind.

File: Mathlib/Algebra/Algebra/Defs.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Algebra/Defs.lean:380]: Oh I missed it, thanks!

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/Defs.lean:380]: I think this is because instances are supposed to be reducible, but `RingHom.id` is not.

**Comment by kbuzzard** [comment]
!bench

File: Mathlib/Algebra/Algebra/Defs.lean [hunk 4]
```diff
@@ -98,16 +98,17 @@ section Prio
 See the implementation notes in this file for discussion of the details of this definition.
 -/
 -- Porting note (https://github.com/leanprover-community/mathlib4/issues/5171): unsupported @[nolint has_nonempty_instance]
-class Algebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends SMul R A,
-  R →+* A where
-  commutes' : ∀ r x, toRingHom r * x = x * toRingHom r
-  smul_def' : ∀ r x, r • x = toRingHom r * x
+class Algebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends SMul R A where
+  /-- Embedding `R →+* A` given by `Algebra` structure. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Defs.lean:102]: This should include a remark that `algebraMap` in the root namespace should be used instead.

**Comment by kbuzzard** [comment]
!bench

**Comment by kbuzzard** [comment]
!bench

**Comment by kbuzzard** [comment]
I should say that I have no particular suspicion that mathlib will compile more quickly or more slowly, but I thought it was worth benchmarking giving that we're changing such a fundamental definition and that typeclass inference can sometimes be very delicate. I hadn't realised that there were problems with the benchmarking bot.

**Comment by kbuzzard** [comment]
!bench

File: Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean [hunk 5]
```diff
@@ -282,12 +282,12 @@ def C : 𝕜 →+* C^n⟮I, N; 𝓘(𝕜, A), A⟯ where
...
   map_add' c₁ c₂ := by ext; exact (algebraMap 𝕜 A).map_add _ _
 
-instance algebra : Algebra 𝕜 C^n⟮I, N; 𝓘(𝕜, A), A⟯ :=
-  { --ContMDiffMap.semiring with -- Porting note: Commented this out.
-    smul := fun r f => ⟨r • f, contMDiff_const.smul f.contMDiff⟩
-    toRingHom := ContMDiffMap.C
-    commutes' := fun c f => by ext x; exact Algebra.commutes' _ _
-    smul_def' := fun c f => by ext x; exact Algebra.smul_def' _ _ }
+instance algebra : Algebra 𝕜 C^n⟮I, N; 𝓘(𝕜, A), A⟯ where
+  -- __ := ContMDiffMap.semiring with -- Porting note: Commented this out.
```
Comment (kbuzzard) [inline Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean:286]: This porting note is kind of a lie now, maybe it's time to just remove it? It's now about a structure which no longer exists.

File: Mathlib/RingTheory/Extension.lean [hunk 6]
```diff
@@ -64,7 +64,7 @@ attribute [simp] algebraMap_σ
 noncomputable instance {R₀} [CommRing R₀] [Algebra R₀ R] [Algebra R₀ S] [IsScalarTower R₀ R S] :
     Algebra R₀ P.Ring where
   __ := Module.compHom P.Ring (algebraMap R₀ R)
-  __ := (algebraMap R P.Ring).comp (algebraMap R₀ R)
+  algebraMap := (algebraMap R P.Ring).comp (algebraMap R₀ R)
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Extension.lean:67]: Is the `Module.compHom` thing on line 66 still necessary?

**Review by kbuzzard — APPROVED** [review]
maintainer delegate

I am not an expert in the finer parts of typeclass inference so I'd like another maintainer to sign off on this, but it's great to see that this change decreases build time a little and the diff looks fine to me (github is making much more of a meal of it than it could do).

File: Mathlib/RingTheory/Extension.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Extension.lean:67]: I believe it is. There's `Algebra.compHom` that can replace the whole def now but this is probably not in scope of the PR.

File: Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/Geometry/Manifold/Algebra/SmoothFunctions.lean:286]: I agree the porting note can be removed, but I am not sure what the structure which no longer exists refers to: `ContMDiffMap.semiring` still seems to exist...

**Review by Vierkantor — APPROVED** [review]
bors d+

File: Mathlib/RingTheory/Extension.lean (hunk 6 above)
Comment (edegeltje) [reply Mathlib/RingTheory/Extension.lean:67]: PR at #20708
